US07037938B2
To a solution of tert-butyl [2-(4-aminophenyl)ethyl][(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]carbamate (1.75 g) and formaldehyde (37% w/w solution in water, 390 μl) in 1,2-dichloroethane (20 ml) was added sodium triacetoxyborohydride (1.23 g), and the mixture was stirred at room temperature for 18 hours under nitrogen atmosphere. The resulting mixture was poured into a mixture of 1N sodium hydroxide and chloroform, and the mixture was stirred for 20 minutes. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=2/1) to give tert-butyl [(2R)-2-(3-chlorophenyl)-2-hydroxyethyl][2-[4-(methylamino)phenyl]ethyl]carbamate (550 mg).

reactant | tert-butyl [2-(4-aminophenyl)ethyl][(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]carbamate | 1.75 g | NC1=CC=C(C=C1)CCN(C(OC(C)(C)C)=O)C[C@H](O)C1=CC(=CC=C1)Cl | C21H27ClN2O3
reactant | formaldehyde | 390 μl | C=O | CH2O
reactant | sodium triacetoxyborohydride | 1.23 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl [(2R)-2-(3-chlorophenyl)-2-hydroxyethyl][2-[4-(methylamino)phenyl]ethyl]carbamate | 550 mg | ClC=1C=C(C=CC1)[C@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)NC)O | C22H29ClN2O3
